*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 3.7
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_0 1 2 3 4 REF
C_C1 1 REF 1.1247238284189pf
C_C2 1 2 13.95935898pf
C_C3 1 3 0.016049157953pf
C_C4 1 4 0.1901457604985pf
C_C5 2 REF 1.2855988186219pf
C_C6 2 3 0.098949937502pf
C_C7 3 REF 0.3404625348286pf
C_C8 3 4 7.751030200335pf
C_C9 4 REF 0.3421649227303pf
L_L1 3 5 1.3092625641437nh
R_RL1 5 4 -1.064868275e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_1 1 2 3 4 REF
C_C1 1 REF 0.8346728055903pf
C_C2 1 2 14.229510026325pf
C_C3 1 3 0.0152618563902pf
C_C4 1 4 0.1916842699486pf
C_C5 2 REF 1.0006051758025pf
C_C6 2 3 0.0989953276119pf
C_C7 3 REF 0.3412201661541pf
C_C8 3 4 5.7566213901229pf
C_C9 4 REF 0.3415226340872pf
R_R1 1 2 964.40122965357
L_L1 3 5 1.3108976622997nh
R_RL1 5 4 3.6230508158e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_2 1 2 3 4 REF
C_C1 1 REF 0.63765369282pf
C_C2 1 2 14.466727826326pf
C_C3 1 3 0.014500029348pf
C_C4 1 4 0.193494862629pf
C_C5 2 REF 0.8080410688416pf
C_C6 2 3 0.099024334656pf
C_C7 3 REF 0.341969632486pf
C_C8 3 4 4.3641590823376pf
C_C9 4 REF 0.3410848867993pf
R_R1 1 2 923.97833143591
L_L1 3 5 1.3122593689704nh
R_RL1 5 4 2.2609519419e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_3 1 2 3 4 REF
C_C1 1 REF 0.4778990177735pf
C_C2 1 2 14.74657279281pf
C_C3 1 3 0.0135540959577pf
C_C4 1 4 0.1961648549746pf
C_C5 2 REF 0.6536318399859pf
C_C6 2 3 0.0990928746408pf
C_C7 3 REF 0.3428689854235pf
C_C8 3 4 3.1660978152482pf
C_C9 4 REF 0.3407489643956pf
R_R1 1 2 901.8686567948
L_L1 3 5 1.3136372524439nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_4 1 2 3 4 REF
C_C1 1 REF 0.3622318445995pf
C_C2 1 2 15.082402254424pf
C_C3 1 3 0.0124170870371pf
C_C4 1 4 0.1998776423201pf
C_C5 2 REF 0.5444955178578pf
C_C6 2 3 0.0992850824031pf
C_C7 3 REF 0.3438410267563pf
C_C8 3 4 2.2059806380299pf
C_C9 4 REF 0.3405446450689pf
R_R1 1 2 904.6019215653
L_L1 3 5 1.3150138855356nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_5 1 2 3 4 REF
C_C1 1 REF 0.2970993877833pf
C_C2 1 2 15.44125183123pf
C_C3 1 3 0.0112420052266pf
C_C4 1 4 0.204183003635pf
C_C5 2 REF 0.4863825078303pf
C_C6 2 3 0.0996583594095pf
C_C7 3 REF 0.3446710820661pf
C_C8 3 4 1.5706103430849pf
C_C9 4 REF 0.3404778582967pf
R_R1 1 2 935.8592473776
L_L1 3 5 1.3161251963602nh
R_RL1 5 4 -2.452726621e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_6 1 2 3 4 REF
C_C1 1 REF 0.26117219842pf
C_C2 1 2 15.837090036969pf
C_C3 1 4 0.2090854542949pf
C_C4 2 REF 0.4581190140294pf
C_C5 2 3 0.1002527526562pf
C_C6 3 REF 0.3453491824305pf
C_C7 3 4 1.1352781090762pf
C_C8 4 REF 0.340489684136pf
R_R1 1 2 997.49507002499
L_L1 3 5 1.3170374692364nh
R_RL1 5 4 -3.721397593e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_7 1 2 3 4 REF
C_C1 1 REF 0.2403425843372pf
C_C2 1 2 16.362078024272pf
C_C3 1 4 0.2156264924756pf
C_C4 2 REF 0.4472025523211pf
C_C5 2 3 0.1012725506085pf
C_C6 3 REF 0.3459549527433pf
C_C7 3 4 0.7877015648009pf
C_C8 4 REF 0.3405560957965pf
L_L1 3 5 1.317897185348nh
R_RL1 5 4 -4.918882399e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_8 1 2 3 4 REF
C_C1 1 REF 0.2307025492053pf
C_C2 1 2 17.049490468872pf
C_C3 1 4 0.224113678384pf
C_C4 2 REF 0.4500843916648pf
C_C5 2 3 0.102870812445pf
C_C6 3 REF 0.3464373443545pf
C_C7 3 4 0.5197625881208pf
C_C8 4 REF 0.3406595577755pf
L_L1 3 5 1.318707774085nh
R_RL1 5 4 -5.98214034e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_9 1 2 3 4 REF
C_C1 1 REF 0.2283819180127pf
C_C2 1 2 17.964797230077pf
C_C3 1 4 0.235204805752pf
C_C4 2 REF 0.4636801976229pf
C_C5 2 3 0.1053064563614pf
C_C6 3 REF 0.3467581196137pf
C_C7 3 4 0.3218819357144pf
C_C8 4 REF 0.3407846888802pf
L_L1 3 5 1.3194266507682nh
R_RL1 5 4 -6.762980911e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_10 1 2 3 4 REF
C_C1 1 REF 0.2290162615974pf
C_C2 1 2 19.172552451793pf
C_C3 1 4 0.2495161888896pf
C_C4 2 REF 0.4843070239003pf
C_C5 2 3 0.10883315153pf
C_C6 3 REF 0.3469109097893pf
C_C7 3 4 0.1781598610483pf
C_C8 4 REF 0.3409172405107pf
L_L1 3 5 1.3200690418214nh
R_RL1 5 4 -7.191416626e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_11 1 2 3 4 REF
C_C1 1 REF 0.2289931594211pf
C_C2 1 2 20.800720374173pf
C_C3 1 4 0.2683498724673pf
C_C4 2 REF 0.5098864992965pf
C_C5 2 3 0.1139253856804pf
C_C6 3 REF 0.3468965912078pf
C_C7 3 4 0.0766286303509pf
C_C8 4 REF 0.3410513413478pf
L_L1 1 5 73.767889060326nh
R_RL1 5 2 15.000830891044
L_L2 3 6 1.3205847412222nh
R_RL2 6 4 -7.153294882e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_12 1 2 3 4 REF
C_C1 1 REF 0.225164633749pf
C_C2 1 2 23.001546454857pf
C_C3 1 4 0.2932512468117pf
C_C4 2 REF 0.5390857216105pf
C_C5 2 3 0.1211434506462pf
C_C6 3 REF 0.3467353218392pf
C_C7 4 REF 0.3411881006309pf
L_L1 1 5 45.227153026384nh
R_RL1 5 2 9.715964003552
L_L2 3 6 1.320997939158nh
R_RL2 6 4 -6.610227183e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_13 1 2 3 4 REF
C_C1 1 REF 0.2142238077175pf
C_C2 1 2 26.084428453067pf
C_C3 1 4 0.3274470917551pf
C_C4 2 REF 0.5725087132717pf
C_C5 2 3 0.1316086576354pf
C_C6 3 REF 0.3464390026137pf
C_C7 4 REF 0.3413395586045pf
R_R1 1 2 -761.3531159895
L_L1 1 5 27.389660345943nh
R_RL1 5 2 6.0082465661062
L_L2 3 6 1.3208625125789nh
R_RL2 6 4 -5.541047176e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_14 1 2 3 4 REF
C_C1 1 REF 0.1925446483104pf
C_C2 1 2 30.504977763391pf
C_C3 1 4 0.3757219242951pf
C_C4 2 REF 0.6123810148493pf
C_C5 2 3 0.1469610839368pf
C_C6 3 REF 0.3460214576862pf
C_C7 4 REF 0.3415307680595pf
L_L1 1 5 15.779916934016nh
R_RL1 5 2 -1.449004393564
L_L2 3 6 1.3205367320882nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_15 1 2 3 4 REF
C_C1 1 REF 0.153389451978pf
C_C2 1 2 37.260056606248pf
C_C3 1 4 0.448634912176pf
C_C4 2 REF 0.6650046315593pf
C_C5 2 3 0.1707689225027pf
C_C6 3 REF 0.3454736559228pf
C_C7 4 REF 0.3418200472637pf
R_R1 1 2 -327.6268166759
L_L1 1 5 9.4732852853921nh
R_RL1 5 2 3.0122881042917
L_L2 3 6 1.3199674819404nh
R_RL2 6 4 -1.952045568e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_16 1 2 3 4 REF
C_C1 1 REF 0.0780685235613pf
C_C2 1 2 49.236448122449pf
C_C3 1 4 0.5769377714108pf
C_C4 2 REF 0.749907828521pf
C_C5 2 3 0.2133148312931pf
C_C6 3 REF 0.344712722657pf
C_C7 4 REF 0.342381715341pf
R_R1 1 2 -229.7729516304
L_L1 1 5 5.4316558139218nh
R_RL1 5 2 0.95302374535
L_L2 3 6 1.3189402298813nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_17 1 2 3 4 REF
C_C1 1 2 73.997768164988pf
C_C2 1 4 0.8412013411901pf
C_C3 2 REF 0.9173148121859pf
C_C4 2 3 0.3015214883243pf
C_C5 3 REF 0.3435667022937pf
C_C6 4 REF 0.3437255940421pf
R_R1 1 2 -165.8624168339
L_L1 1 5 2.2813334606204nh
R_RL1 5 2 0.220596873745
L_L2 1 6 94.778385543787nh
R_RL2 6 3 0.1124364469165
L_L3 1 7 94.006083894499nh
R_RL3 7 4 0.1133045341959
L_L4 2 8 94.808848300322nh
R_RL4 8 3 0.0127981671957
L_L5 2 9 94.038958649149nh
R_RL5 9 4 0.0124895749468
L_L6 3 10 1.3168496457193nh
R_RL6 10 4 2.6847744721e-5
Kn_K1 L_L1 L_L2 0.0765370139621
Kn_K2 L_L1 L_L3 0.0767684115445
Kn_K3 L_L1 L_L4 -0.078596052199
Kn_K4 L_L1 L_L5 -0.078999463964
Kn_K5 L_L2 L_L3 0.9930328965195
Kn_K6 L_L2 L_L4 0.9879668530605
Kn_K7 L_L2 L_L5 0.9809383249241
Kn_K8 L_L2 L_L6 -0.093501192071
Kn_K9 L_L3 L_L4 0.9809649743889
Kn_K10 L_L3 L_L5 0.9878681692908
Kn_K11 L_L3 L_L6 0.024471471938
Kn_K12 L_L4 L_L5 0.9930351786557
Kn_K13 L_L4 L_L6 -0.093378236519
Kn_K14 L_L5 L_L6 0.0245755680815
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_18 1 2 3 4 REF
C_C1 1 2 142.55254039753pf
C_C2 1 4 1.5722208309019pf
C_C3 2 REF 1.3737652444572pf
C_C4 2 3 0.5455797106086pf
C_C5 3 REF 0.3413134570891pf
C_C6 4 REF 0.3480282480858pf
R_R1 1 2 -149.9100086575
L_L1 1 5 0.7997211973812nh
R_RL1 5 2 0.0328171982484
L_L2 1 6 38.187147316882nh
R_RL2 6 3 0.022429645412
L_L3 1 7 37.473184115989nh
R_RL3 7 4 0.0226746780236
L_L4 2 8 38.282999879646nh
R_RL4 8 3 0.0018319432952
L_L5 2 9 37.572547135682nh
R_RL5 9 4 0.0017153271646
L_L6 3 10 1.3111784259032nh
R_RL6 10 4 4.623207338e-5
Kn_K1 L_L1 L_L2 0.0636844943808
Kn_K2 L_L1 L_L3 0.0639676809226
Kn_K3 L_L1 L_L4 -0.080928050753
Kn_K4 L_L1 L_L5 -0.082009800517
Kn_K5 L_L2 L_L3 0.982713954236
Kn_K6 L_L2 L_L4 0.9895428244744
Kn_K7 L_L2 L_L5 0.9721225569527
Kn_K8 L_L2 L_L6 -0.143098769512
Kn_K9 L_L3 L_L4 0.9722375028457
Kn_K10 L_L3 L_L5 0.9893444156652
Kn_K11 L_L3 L_L6 0.0426000078691
Kn_K12 L_L4 L_L5 0.982757902774
Kn_K13 L_L4 L_L6 -0.14267177058
Kn_K14 L_L5 L_L6 0.0427937147109
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_19 1 2 3 4 REF
C_C1 1 2 562.0104436037pf
C_C2 1 4 6.0481685559205pf
C_C3 2 REF 4.162968307759pf
C_C4 2 3 2.0361319557523pf
C_C5 3 REF 0.3307190404509pf
C_C6 4 REF 0.3770913835849pf
R_R1 1 2 16.590157348257
L_L1 1 5 17.43478273553nh
R_RL1 5 REF -0.235080891341
L_L2 1 6 0.1379025111883nh
R_RL2 6 2 -0.01703353132
L_L3 1 7 8.1422241103154nh
R_RL3 7 3 -7.218868189e-3
L_L4 1 8 7.4845443527362nh
R_RL4 8 4 -8.113390365e-3
L_L5 2 9 17.342225376351nh
R_RL5 9 REF -0.24522043468
L_L6 2 10 8.1730845215119nh
R_RL6 10 3 -1.671859469e-3
L_L7 2 11 7.5200198769678nh
R_RL7 11 4 -1.332872973e-3
L_L8 3 12 25.422676552737nh
R_RL8 12 REF -0.249108461752
L_L9 3 13 1.276870288877nh
R_RL9 13 4 3.2357315087e-5
L_L10 4 14 24.756979875368nh
R_RL10 14 REF -0.249604955877
Kn_K1 L_L1 L_L2 0.0743140551409
Kn_K2 L_L1 L_L5 0.9960381919576
Kn_K3 L_L1 L_L8 0.8244630756864
Kn_K4 L_L1 L_L10 0.8352812054687
Kn_K5 L_L2 L_L3 0.0505087954778
Kn_K6 L_L2 L_L4 0.050409876251
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.079481848545
Kn_K9 L_L2 L_L7 -0.085127229688
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.91910391193
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9915494352773
Kn_K15 L_L3 L_L7 0.9100936199243
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.299988811142
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9108190668741
Kn_K21 L_L4 L_L7 0.9908120651374
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1001470675007
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8237213739179
Kn_K26 L_L5 L_L10 0.834417718151
Kn_K27 L_L6 L_L7 0.9194314208009
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.298707609113
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1006552470918
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1704755014926
Kn_K35 L_L8 L_L10 0.9746397939453
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_20 1 2 3 4 REF
C_C1 1 REF 10.731118598626pf
C_C2 1 3 5.5730892079092pf
C_C3 2 4 16.601154765598pf
C_C4 3 REF 0.3800797840629pf
C_C5 4 REF 0.2263628741722pf
R_R1 1 REF -602.1712465834
R_R2 1 2 4.7544752907958
R_R3 1 4 423.93377084713
R_R4 2 REF 587.47062301277
R_R5 2 4 -423.6395342859
L_L1 1 5 4.9026949990267nh
R_RL1 5 REF -0.019450377816
L_L2 1 6 0.3001799817398nh
R_RL2 6 2 -0.336417252733
L_L3 1 7 2.990839244306nh
R_RL3 7 3 -0.159347229817
L_L4 1 8 2.4349504833482nh
R_RL4 8 4 -0.210007200791
L_L5 2 9 5.1674600949782nh
R_RL5 9 REF -0.405904826317
L_L6 2 10 2.9063605355498nh
R_RL6 10 3 -0.032567478437
L_L7 2 11 2.3010472006363nh
R_RL7 11 4 -0.014764397803
L_L8 3 12 7.8932206662437nh
R_RL8 12 REF -0.214274191237
L_L9 3 13 1.1864022590536nh
R_RL9 13 4 -3.431581667e-3
L_L10 4 14 7.3461280103318nh
R_RL10 14 REF -0.270077004456
Kn_K1 L_L1 L_L2 0.0145964602307
Kn_K2 L_L1 L_L5 0.9705266333326
Kn_K3 L_L1 L_L8 0.7880911072307
Kn_K4 L_L1 L_L10 0.8176430184605
Kn_K5 L_L2 L_L3 0.2029822930783
Kn_K6 L_L2 L_L4 0.2538675059447
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.115466793368
Kn_K9 L_L2 L_L7 -0.100034031422
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0414100822175
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7854734570223
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9491952763048
Kn_K16 L_L3 L_L7 0.7346906815839
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.462464269997
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7152198750056
Kn_K22 L_L4 L_L7 0.9369919580524
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1854826718948
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0233009889962
Kn_K27 L_L5 L_L7 0.0177450238515
Kn_K28 L_L5 L_L8 0.7949781122059
Kn_K29 L_L5 L_L9 -0.011756897237
Kn_K30 L_L5 L_L10 0.8287737778292
Kn_K31 L_L6 L_L7 0.7774405007935
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.482445601776
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1758465514932
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2832366647643
Kn_K39 L_L8 L_L10 0.9227435679159
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_21 1 2 3 4 REF
C_C1 1 2 477.54175027234pf
C_C2 1 4 5.1386491384951pf
C_C3 2 REF 3.5945522898545pf
C_C4 2 3 1.7397065464283pf
C_C5 3 REF 0.331791623393pf
C_C6 4 REF 0.3696101665954pf
R_R1 1 REF 772.4827050569
R_R2 1 2 -5.589787245455
R_R3 1 4 -514.0639010621
R_R4 2 REF -788.1124157395
R_R5 2 4 514.73370211538
L_L1 1 5 14.524069960909nh
R_RL1 5 REF -0.075691790071
L_L2 1 6 0.0768112820945nh
R_RL2 6 2 0.0268236227749
L_L3 1 7 6.7453651374872nh
R_RL3 7 3 0.0162483665087
L_L4 1 8 6.090516199279nh
R_RL4 8 4 0.0177419546881
L_L5 2 9 14.408975153701nh
R_RL5 9 REF -0.041947817088
L_L6 2 10 6.7858727205184nh
R_RL6 10 3 0.001471959032
L_L7 2 11 6.1383722340518nh
R_RL7 11 4 0.0010462043981
L_L8 3 12 21.147404177025nh
R_RL8 12 REF -0.058781597632
L_L9 3 13 1.2660130131249nh
R_RL9 13 4 6.6751086166e-5
L_L10 4 14 20.484298112785nh
R_RL10 14 REF -0.057076982307
Kn_K1 L_L1 L_L2 0.0908452211612
Kn_K2 L_L1 L_L5 0.9973530969542
Kn_K3 L_L1 L_L8 0.8252534028012
Kn_K4 L_L1 L_L10 0.8382649802541
Kn_K5 L_L2 L_L3 0.0252177098722
Kn_K6 L_L2 L_L4 0.0211669227458
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081249836496
Kn_K9 L_L2 L_L7 -0.09077860391
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.011782413465
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9025445279089
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9943278660661
Kn_K16 L_L3 L_L7 0.8961985058342
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.328658101102
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8975946766887
Kn_K22 L_L4 L_L7 0.9937264755769
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1100478813801
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8240858070887
Kn_K27 L_L5 L_L10 0.8368638181025
Kn_K28 L_L6 L_L7 0.9031777510364
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.326422130609
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1109360782463
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.1864152434803
Kn_K36 L_L8 L_L10 0.9697131845516
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_22 1 2 3 4 REF
C_C1 1 2 75.894379291898pf
C_C2 1 4 0.8484581661662pf
C_C3 2 REF 0.9256252013403pf
C_C4 2 3 0.3124398920303pf
C_C5 3 REF 0.3408961640361pf
C_C6 4 REF 0.340471492744pf
R_R1 1 2 -57.32826254424
L_L1 1 5 0.3558389852193nh
R_RL1 5 2 0.0649685826195
L_L2 1 6 36.584248041522nh
R_RL2 6 3 0.0651209021437
L_L3 1 7 35.825738342063nh
R_RL3 7 4 0.0655679617301
L_L4 2 8 36.897814199103nh
R_RL4 8 3 0.0024632137885
L_L5 2 9 36.147924893287nh
R_RL5 9 4 0.0024667727164
L_L6 3 10 1.307502329213nh
R_RL6 10 4 -2.68336696e-5
Kn_K1 L_L1 L_L4 -0.092370217357
Kn_K2 L_L1 L_L5 -0.09452520027
Kn_K3 L_L2 L_L3 0.9819969449553
Kn_K4 L_L2 L_L4 0.9951665321729
Kn_K5 L_L2 L_L5 0.9770296564504
Kn_K6 L_L2 L_L6 -0.149360083595
Kn_K7 L_L3 L_L4 0.9773526286271
Kn_K8 L_L3 L_L5 0.9950659533275
Kn_K9 L_L3 L_L6 0.0401067718941
Kn_K10 L_L4 L_L5 0.9821519809992
Kn_K11 L_L4 L_L6 -0.148103532985
Kn_K12 L_L5 L_L6 0.040554587798
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_23 1 2 3 4 REF
C_C1 1 REF 0.2626083514684pf
C_C2 1 2 27.156066207743pf
C_C3 1 4 0.3279303725874pf
C_C4 2 REF 0.6083590800651pf
C_C5 2 3 0.1380601673035pf
C_C6 3 REF 0.3414202022483pf
C_C7 4 REF 0.3362904713751pf
R_R1 1 2 -191.0785125071
L_L1 1 5 0.7370684238508nh
R_RL1 5 2 0.1404545316518
L_L2 3 6 1.3128282366949nh
R_RL2 6 4 -8.316911862e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_24 1 2 3 4 REF
C_C1 1 REF 0.3599386987534pf
C_C2 1 2 12.936610381816pf
C_C3 1 3 0.037213332339pf
C_C4 1 4 0.1783733461316pf
C_C5 2 REF 0.5244613778628pf
C_C6 2 3 0.0852181005533pf
C_C7 3 REF 0.3404415058139pf
C_C8 4 REF 0.333940417841pf
R_R1 1 2 -836.3750629382
L_L1 1 5 1.1213672037864nh
R_RL1 5 2 0.0796610448674
L_L2 3 6 1.3119153028428nh
R_RL2 6 4 -6.778867987e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_25 1 2 3 4 REF
C_C1 1 REF 0.4013056386173pf
C_C2 1 2 7.512144939318pf
C_C3 1 3 0.0624742625858pf
C_C4 1 4 0.1210754448609pf
C_C5 2 REF 0.4985957944961pf
C_C6 2 3 0.0633691902886pf
C_C7 2 4 0.0141238706156pf
C_C8 3 REF 0.3388105314593pf
C_C9 4 REF 0.3316279730283pf
L_L1 1 5 1.6792621692071nh
R_RL1 5 2 4.7572994014e-4
L_L2 3 6 1.3096612235455nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_26 1 2 3 4 REF
C_C1 1 REF 0.4183234510252pf
C_C2 1 2 5.8748644068064pf
C_C3 1 3 0.0727982356223pf
C_C4 1 4 0.1020908224688pf
C_C5 2 REF 0.493977690839pf
C_C6 2 3 0.0555591472734pf
C_C7 2 4 0.0357612135007pf
C_C8 3 REF 0.3376450665587pf
C_C9 4 REF 0.3301445475685pf
L_L1 1 5 1.8262627499514nh
R_RL1 5 2 1.0907688573e-4
L_L2 3 6 1.3086732692948nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param47_26

